US04381310
3.05 g (0.025 mole) of calcium chloride were added to 18.1 g (0.05 mole) of 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-3-(methylcyclohex-3-en-1-yl)-2-propen-1-one in 100 ml of methanol, and the mixture was cooled to -20° C. 1.9 g (0.05 mole) of sodium borohydride were added in portions, and, when the addition had ended, the mixture was warmed to -10° C. Thereafter, an acetone/water mixture was added dropwise and the reaction mixture was allowed to warm to room temperature. It was adjusted to a pH value of 5 with dilute hydrochloric acid and concentrated. The residue was taken up in a mixture of methylene chloride/water and the organic phase was separated off, dried over sodium sulphate, filtered and concentrated. 15.6 g (85.7% of theory) of 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-3-(methyl-cyclohex-3-en-1-yl)-2-propen-1-ol were obtained as an amorphous powder.

reactant | calcium chloride | 0.025 mole, 3.05 g | [Cl-].[Ca+2].[Cl-]
reactant | 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-3-(methylcyclohex-3-en-1-yl)-2-propen-1-one | 0.05 mole, 18.1 g | ClC1=C(C=CC(=C1)Cl)C(C(=CC1(CC=CCC1)C)N1C=NC=C1)=O | C19H18Cl2N2O
reactant | sodium borohydride | 0.05 mole, 1.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | acetone water | CC(=O)C.O
product | 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)-3-(methyl-cyclohex-3-en-1-yl)-2-propen-1-ol | 15.6 g, 85.7% | ClC1=C(C=CC(=C1)Cl)C(C(=CC1(CC=CCC1)C)N1C=NC=C1)O | C19H20Cl2N2O
